US04396704
(3) p-trimethylsilylphenol
28.7 g p-trimethylsilylphenoxytrimethylsilane was dissolved in 9 ml 95 percent ethyl alcohol. One drop of concentrated hydrochloric acid and 4 ml water were added, and the mixture was shaked for 5 minutes. After standing for another 15 minutes, the mixture was washed two times with 30 ml water and separated. The organic phase was poured into a crystallizing dish; p-trimethylsilylphenol crystallized out as white needles. After drying overnight in vacuo, 18.7 g of product was obtained (mp 76 degrees Celsius).

reactant | p-trimethylsilylphenoxytrimethylsilane | 28.7 g | C[Si](C1=CC=C(O[Si](C)(C)C)C=C1)(C)C | C12H22OSi2
reactant | water | 4 ml | O | H2O
solvent | ethyl alcohol | 9 ml | C(C)O | C2H6O
catalyst | hydrochloric acid | One drop | Cl | ClH
product | p-trimethylsilylphenol | 18.7 g | C[Si](C1=CC=C(C=C1)O)(C)C | C9H14OSi
